US07691869B2
A mixture of the title A compound, N′-(2-amino-7H-pyrrolo[2,3-d]pyrimidin-4-yl)furan-2-carbohydrazide (0.4 g, 1.55 mmol), N,O-bis(trimethylsilyl)acetamide (1.89 g, 9.3 mmol) and 2 mL of hexamethyldisilazine is heated at 120° C. overnight. After removing volatiles under vacuum, the residue is washed with 5 mL of water and the collected solid is purified by flash chromatography using EtOAc/MeOH (95/5) as eluent to give 2-(furan-2-yl)-7H-pyrrolo[3,2-e][1,2,4]triazolo[1,5-c]pyrimidin-5-amine: LC/MS (M+1=241.0). 1H NMR (DMSO-d6, 400 MHz) δ 6.57 (m, 1H), 6.70 (m, 1H), 7.01 (m, 1H), 7.18 (m, 1H), 7.36 (brs, 2H, NH2), 7.89 (s, 1H), 11.6 (br s, NH-pyrrole).

reactant | N′-(2-amino-7H-pyrrolo[2,3-d]pyrimidin-4-yl)furan-2-carbohydrazide | 1.55 mmol, 0.4 g | NC=1N=C(C2=C(N1)NC=C2)NNC(=O)C=2OC=CC2 | C11H10N6O2
reactant | N,O-bis(trimethylsilyl)acetamide | 9.3 mmol, 1.89 g | C/C(=N\[Si](C)(C)C)/O[Si](C)(C)C | C8H21NOSi2
reactant | hexamethyldisilazine | 2 mL | CC1(C(C(N=[SiH][SiH2]1)(C)C)(C)C)C | C9H21NSi2
product | 2-(furan-2-yl)-7H-pyrrolo[3,2-e][1,2,4]triazolo[1,5-c]pyrimidin-5-amine | O1C(=CC=C1)C1=NN2C(=NC3=C(C2=N1)C=CN3)N | C11H8N6O
